US08207174B2
3-(2-Hydroxy-3-(1-(5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-piperidin-4-ylamino)-propoxy)-phenol
Synthesis followed SP6 (iPrOH:DMSO 3:1, 24 h), using 150 μmol 3-(oxiran-2-ylmethoxy)phenyl benzoate and 1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine. The benzoic acid moiety was already lost during purification by prep. TLC (1 mm silica gel, PE/CH2Cl2/MeOH 4:6:1) and subsequent prep. HPLC (reversed phase) to give the title compound with 20% yield.

reactant | 3-(oxiran-2-ylmethoxy)phenyl benzoate | 150 μmol | C(C1=CC=CC=C1)(=O)OC1=CC(=CC=C1)OCC1OC1 | C16H14O4
reactant | 1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine | C1(=CC=CC=C1)C1=CSC=2N=CN=C(C21)N2CCC(CC2)N | C17H18N4S
solvent | iPrOH DMSO | CC(C)O.CS(=O)C
product | 3-(2-Hydroxy-3-(1-(5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-piperidin-4-ylamino)-propoxy)-phenol | 20% yield | OC(COC=1C=C(C=CC1)O)CNC1CCN(CC1)C=1C2=C(N=CN1)SC=C2C2=CC=CC=C2 | C26H28N4O3S
